// Generated for: spectre
// Generated on: May 25 01:58:10 2015
// Design library name: Playground
// Design cell name: spectre_allsims
// Design view name: schematic
simulator lang=spectre
global 0
parameters RL=50 fsin=1G R=1k
include "/home/rboesch/Python/py_spectre/test/spectre_scripts/ptm_hspice/130nm_bulk.pm"

// Library name: Playground
// Cell name: spectre_test_RC
// View name: schematic
subckt spectre_test_RC VI VO VSS
parameters _par0=1k C=1p
    R0 (VI VO) resistor r=_par0
    C0 (VO VSS) capacitor c=C
ends spectre_test_RC
// End of subcircuit definition.

// Library name: Playground
// Cell name: spectre_test_RCRC
// View name: schematic
subckt spectre_test_RCRC VIM VIP VOM VOP VSS
parameters R1 C1 R2 C2
    I5 (VIM VOM VSS) spectre_test_RC _par0=R1 C=C1
    I4 (VIP VOP VSS) spectre_test_RC _par0=R2 C=C2
ends spectre_test_RCRC
// End of subcircuit definition.

// Library name: analogLib
// Cell name: ideal_balun
// View name: schematic
subckt ideal_balun d c p n
    K0 (d 0 p c) transformer n1=2
    K1 (d 0 c n) transformer n1=2
ends ideal_balun
// End of subcircuit definition.

// Library name: Playground
// Cell name: spectre_allsims
// View name: schematic
C1 (VAM 0) capacitor c=1p
C0 (VAP 0) capacitor c=1p
I1 (VAM VAP VOM VOP 0) spectre_test_RCRC R1=1k C1=1p R2=1k C2=1p
I16 (VOD VOC VOP VOM) ideal_balun
I14 (VID 0 VIP VIM) ideal_balun
R1 (VIM VAM) resistor r=1K
R0 (VIP VAP) resistor r=1K
V0 (VID 0) vsource mag=1 type=sine pacmag=1 ampl=1 freq=1G
M0 (VG VG 0 0) nmos w=1u l=180.00n
I10 (0 VG) isource dc=100u type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 \
    checklimitdest=psf 
tran tran stop=100n \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
dcOp dc maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=RL start=1 stop=100 dec=11 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
ac ac start=1 stop=1T dec=92 values=[1k 1e4 1.1e5] annotate=status 
noise ( VOD gnd! ) noise freq=1 param=RL start=1 stop=5000 values=[10 \
    1000] annotate=status 
xf ( VOD gnd! ) xf start=1 stop=1T annotate=status 
sens (VOD ) for (dcOp dc )
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
saveOptions options save=allpub
